US07795262B2
Step 2. Preparation of tert-butyl {2-[(cyclobutylamino)carbonyl]-7,8-dihydro-1,6-naphthyridin-6(5H)-yl}acetate
A mixture of N-cyclobutyl-1,6-naphthyridine-2-carboxamide (227 mg, 1 mmol), tert-butyl bromoacetate (234 mg, 1.2 mmol) in CH3CN (15 mL) is refluxed overnight. Solvent is removed in vacuo and the residue is dissolve in MeOH (20 mL). To the solution is added NaBH4 (181 mg, 4.8 mmol) and the mixture is refluxed for 4 hr. The solvent is removed in vacuo and the residue is partitioned between water (20 mL) and EtOAc (20 mL). The layers are separated and the aqueous layer is extracted with EtOAc (20 ml). The combined extracts are washed with brine (10 mL), dried and evaporated. The residue is purified by flash column to give the title compound as a light yellow oil. MS (M+1): 346.2.

reactant | N-cyclobutyl-1,6-naphthyridine-2-carboxamide | 1 mmol, 227 mg | C1(CCC1)NC(=O)C1=NC2=CC=NC=C2C=C1 | C13H13N3O
reactant | tert-butyl bromoacetate | 1.2 mmol, 234 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | NaBH4 | 4.8 mmol, 181 mg | [BH4-].[Na+]
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | tert-butyl {2-[(cyclobutylamino)carbonyl]-7,8-dihydro-1,6-naphthyridin-6(5H)-yl}acetate | C1(CCC1)NC(=O)C1=NC=2CCN(CC2C=C1)CC(=O)OC(C)(C)C | C19H27N3O3
